US07074800B1
A solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (74 mg, 0.23 mmol), (prepared as described for the starting material in Example 1), and 3,4-(methylenedioxy)aniline (53 mg, 0.24 mmol) in a solution of isopropanol (3.5 ml) containing 5.5M hydrogen chloride in isopropanol (42 μl) was heated for 3 hours. After cooling to ambient temperature, the reaction mixture was cooled to 0° C. and maintained at this temperature overnight. The precipitate was collected by filtration, washed with ethyl acetate and dried under vacuum to give 4-(1,3-benzodioxol-5-ylamino)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (82 mg, 76%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.23 mmol, 74 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 3,4-(methylenedioxy)aniline | 0.24 mmol, 53 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | hydrogen chloride | 5.5M | Cl | ClH
solvent | isopropanol | 42 μl | C(C)(C)O | C3H8O
solvent | isopropanol | 3.5 ml | C(C)(C)O | C3H8O
product | 4-(1,3-benzodioxol-5-ylamino)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 82 mg, 76% | O1COC2=C1C=CC(=C2)NC2=NC=NC1=CC(=C(C=C21)OC)OCCCN2CCOCC2 | C23H26N4O5
